US07217724B2
A solution of 3-{(2 R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethyl-amino]propyl}-1H-indole-7-carboxylic acid diethylamide (175 mg, 0.41 mmol) in 1,4-dioxane (7 mL) and 6N hydrochloric acid (7 mL) is stirred with heating at 150° C. for 7 hours in a closed system. After cooling, the mixture is evaporated under reduced pressure to remove dioxane, and the resultant is neutralized with an aqueous Na2CO3 solution. The precipitates are filtered, and purified by reversed phase column (octa-decylsilyl, methanol/water=1/1→3/1) to give the desired 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethylamino]propyl}-1H-indole-7-carboxylic acid (45 mg, yield: 30%).

reactant | 3-{(2 R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethyl-amino]propyl}-1H-indole-7-carboxylic acid diethylamide | 0.41 mmol, 175 mg | C(C)N(C(=O)C=1C=CC=C2C(=CNC12)C[C@@H](C)NC[C@H](O)C1=CC(=CC=C1)Cl)CC | C24H30ClN3O2
reactant | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 6N, 7 mL | Cl | ClH
product | 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethylamino]propyl}-1H-indole-7-carboxylic acid | 45 mg, yield: 30% | ClC=1C=C(C=CC1)[C@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)O)C)O | C20H21ClN2O3
